US04116951
Boc-Ser(Bzl)-Glu(OBzl)-OH.CHA.
H-Glu(OBzl)-OH (39.4 g, 166 mmol) was stirred with Boc-Ser(Bzl)-OSu (65.0 g, 166 mmol) in 900 ml DMF overnight in the presence of Et3N (2.3 ml, 165 mmol). More Et3N was added during this time in order to maintain the reaction slightly basic. The clear solution was evaporated to dryness and the oily residue partitioned between EtOAc (1.5 liters) and 5% HOAc (2 liters). The organic layer was washed with H2O (2 times), dried over Na2SO4, and concentrated to a clear oil (90.0 g) which was taken up in 3 liters of ether and treated with 25 ml of cyclohexylamine The solid formed was recrystallized from MeOH and ether: yield, 76.2 g (74.8%); mp 154°-156.5°; [α]D25 =+6.32° (c l, MeOH).

reactant | H-Glu(OBzl)-OH | 166 mmol, 39.4 g | N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O | C12H15NO4
reactant | Boc-Ser(Bzl)-OSu | 166 mmol, 65.0 g | N([C@@H](COCC1=CC=CC=C1)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C19H24N2O7
reactant | Et3N | 165 mmol, 2.3 ml | CCN(CC)CC | C6H15N
reactant | MeOH | CO | CH4O
solvent | DMF | 900 ml | CN(C)C=O | C3H7NO
product | Boc-Ser(Bzl)-Glu(OBzl)-OH | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C27H34N2O8
